US04118559
A solution of 1-bromopropylbenzene (51.7 g.) in ether (234 ml.) is added dropwise over a 2-hour period to a refluxing mixture of magnesium (7.32 g.) in ether (78 ml.). The reaction mixture is refluxed for 30 minutes longer and then a solution of 3-methoxy-acetophenone (46.3 g.) in ether (78 ml.) is added dropwise and heated to reflux for 1.5 hours. The reaction is quenched by addition of saturated ammonium chloride (234 ml.), the ether layer is separated and the aqueous phase extracted with ether (3 × 200 ml.). The combined ether extracts are dried over magnesium sulfate and concentrated under vacuum to yield an oil. The oil is hydrogenated in a mixture containing ethanol (600 ml.), concentrated hydrochloric acid (4 ml.) and 5% palladium-on-carbon (10 g.). The catalyst is filtered off and the ethanol removed under vacuum. The residue is distilled under vacuum yielding 2-(3-methoxyphenyl)-5-phenylpentane.

reactant | 1-bromopropylbenzene | 51.7 g | BrC(CC)C1=CC=CC=C1 | C9H11Br
reactant | magnesium | 7.32 g | [Mg] | Mg
reactant | ethanol | 600 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | ether | 234 ml | CCOCC | C4H10O
reactant | ether | 78 ml | CCOCC | C4H10O
reactant | ether | 78 ml | CCOCC | C4H10O
catalyst | palladium-on-carbon | 10 g | [Pd] | Pd
product | 2-(3-methoxyphenyl)-5-phenylpentane | COC=1C=C(C=CC1)C(C)CCCC1=CC=CC=C1 | C18H22O
